USRE029153
Employing the procedure of Example I but replacing pyridine with a substantially equimolecular amount of pyridazine and replacing 4-methoxyphenacyl bromide with a substantially equimolecular amount of 4-chlorophenacyl chloride there is obtained N-(4-chlorophenacyl) pyridazinium chloride, a solid soluble in water.

reactant | pyridazine | N1=NC=CC=C1 | C4H4N2
reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | 4-chlorophenacyl chloride | ClC1=CC=C(C(CCl)=O)C=C1 | C8H6Cl2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-chlorophenacyl) pyridazinium chloride | [Cl-].ClC1=CC=C(C(C[N+]2=NC=CC=C2)=O)C=C1 | InChI=1S/C12H10ClN2O.ClH/c13-11-5-3-10(4-6-11)12(16)9-15-8-2-1-7-14-15;/h1-8H,9H2;1H/q+1;/p-1
